US08865712B2
c) 2-(2-Bromo-5-fluoro-pyridin-4-yl)-propane-1,2-diol
To a solution of 2-bromo-5-fluoro-4-isopropenyl-pyridine (17.1 g, 79 mmol) in acetone (50 mL) and H2O (100 mL) was added N-methylmorpholine oxide (10.51 g, 87 mmol) and OsO4 (4.97 mL, 4.02 g, 0.396 mmol). The biphasic mixture was stirred at rt for 17 h. The reaction mixture was quenched with sodium hydrosulfite (1.516 g, 8.71 mmol) in H2O (50 ml) and stirred at rt for 20 min. The reaction mixture was filtered through celite and the celite pad was washed three times with acetone. The combined filtrates were evaporated and the residue was taken up with EtOAc and 1N aq. NaOH soln. The phases were separated and the aq. phase was reextracted with EtOAc. The combined org. phases were dried over Na2SO4, filtered and concentrated to yield the title compound as a light purple solid. HPLC RtH4=0.60 min; ESIMS: 250, 252 [(M+H)+]; 1H NMR (400 MHz, DMSO-d6): δ 8.32 (d, 1H), 7.71 (d, 1H), 5.57 (s, 1H), 4.89 (t, 1H), 3.65-3.57 (m, 1H), 3.53-3.45 (m, 1H), 1.39 (s, 3H).

reactant | 2-bromo-5-fluoro-4-isopropenyl-pyridine | 79 mmol, 17.1 g | BrC1=NC=C(C(=C1)C(=C)C)F | C8H7BrFN
reactant | N-methylmorpholine oxide | 87 mmol, 10.51 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium hydrosulfite | 8.71 mmol, 1.516 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | H2O | 100 mL | O | H2O
reactant | H2O | 50 ml | O | H2O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
catalyst | OsO4 | 0.396 mmol, 4.97 mL, 4.02 g | O=[Os](=O)(=O)=O
product | 2-(2-Bromo-5-fluoro-pyridin-4-yl)-propane-1,2-diol | BrC1=NC=C(C(=C1)C(CO)(C)O)F | C8H9BrFNO2
